* Z:\mnt\spice-netlists\LT1083_TA01.asc
R1 OUT N001 121
R2 N001 0 365
V1 IN 0 PWL(0 0 1 10)
XU1 N001 OUT IN LT1083
Rload OUT 0 .67
C1 OUT 0 10µ
C2 IN 0 10µ
.tran 1
* LT1083 - 7.5A Low Dropout Positive Adjustable Regulators\n5V, 7.5A Regulator\nInput: >= 6.5V     Output: 5V @ 7.5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT1083.lib
.backanno
.end
