* Z:\mnt\spice-netlists\LT1175_TA01.asc
XU1 IN IN OUT N002 0 N001 IN LT1175
V1 IN 0 PWL(0 0 1 -12)
C1 OUT 0 1µ
R1 N002 OUT 121K
R2 0 N002 383K
Rload OUT 0 10
.tran 1
* LT1175 - 500mA Negative Low Dropout µPower Regulator\nNegative Low Dropout Regulator with Current Limit\nInput: -6V to -17V     Output: -5 @ 500mA (800mA Current Limited)
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT1175.lib
.backanno
.end
