* Z:\mnt\spice-netlists\LT1185_TA01.asc
XU1 0 N002 IN OUT N001 LT1185
R1 0 N001 4.32K
R2 0 N002 2.37K
R3 N002 OUT 2.67K
V1 0 IN 7.5
C1 0 OUT 2.2µ
R4 0 OUT 1.7
C2 0 IN 2.2µ
.tran 100u startup
* LT1185 - Low Dropout Regulator\nNegative Regulator with 3.5A Current Limit\nInput: 6V to 16V     Output: -5V @ 3A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT1185.lib
.backanno
.end
