* Z:\mnt\spice-netlists\LT1243_TA06.asc
R1 N017 0 .67
C1 N018 0 220p
C2 N015 0 .1µ
C3 N014 N013 .01µ
R2 N013 N010 100K
R3 N015 N018 12K
R4 N010 0 20K
R5 N017 N016 1K
M§Q1 N004 N012 N017 N017 IRF7303
R6 N012 N011 12
R7 N006 N010 152K
C4 N006 0 .0022µ
C5 N007 0 100p
D1 N007 N006 BAT54
C6 N005 0 22µ
R8 N009 N005 39
D2 N008 N009 BAT54
R9 IN N016 1.32Meg
R10 IN N003 660K
C7 IN N003 470p
L1 N001 0 16µ
L2 N008 0 18.8µ
L3 N004 IN 100µ
D3 N001 N002 MBRS340
C8 N002 0 10µ
L4 N002 OUT 1µ
C9 OUT 0 3.3µ
R11 OUT 0 750
V1 IN 0 200
D4 0 N005 BZX84C15L
D5 N004 N003 MURS320
R12 N008 N007 510
R13 IN N005 400K
XU1 N014 N010 N016 N018 0 N011 N005 N015 LT1243
C10 N016 0 50p
Rload OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran .5m
K1 L1 L2 L3 1
* LT1243 - High Speed Current Mode Pulse Width Modulators\n300kHz Off-Line Power Supply\n(Full-wave rectifier front end circuit not simulated)\nInput: 90VAC to 240VAC (152VDC to 57VDC)     Output: 20V @ 1.5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT1243.sub
.backanno
.end
