* Z:\mnt\spice-netlists\LT1244_TA06.asc
R1 N018 0 .67
C1 N019 0 220p
C2 N016 0 .1µ
C3 N015 N014 .01µ
R2 N014 N011 100K
R3 N016 N019 12K
R4 N011 0 20K
R5 N018 N017 1K
M§Q1 N004 N013 N018 N018 IRF7303
R6 N013 N012 12
R7 N007 N011 152K
C4 N007 0 .0022µ
C5 N008 0 100p
D1 N008 N007 BAT54
C6 N006 0 22µ
R8 N010 N006 39
D2 N009 N010 BAT54
R9 IN N017 1.32Meg
R10 IN N003 660K
C7 IN N003 470p
L1 N001 0 16µ
L2 N009 0 18.8µ
L3 N004 IN 100µ
D3 N001 N002 MBRS340
C8 N002 0 10µ
L4 N002 OUT 1µ
C9 OUT 0 3.3µ
R11 OUT 0 750
V1 IN 0 200
D4 N005 N006 BZX84C15L
D5 N004 N003 MURS320
R12 N009 N008 510
R13 IN N006 400K
XU1 N015 N011 N017 N019 0 N012 N006 N016 LT1244
D6 0 N005 BZX84C6V2L
C10 N017 0 50p
Rload OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u
K1 L1 L2 L3 1
* LT1244 - High Speed Current Mode Pulse Width Modulators\n300kHz Off-Line Power Supply\n(Full-wave rectifier front end circuit not simulated)\nInput: 90VAC to 240VAC (152VDC to 57VDC)     Output: 20V @ 1.5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT1244.sub
.backanno
.end
